### PR TITLE
feat: port HeapLang heap tactics

### PR DESCRIPTION
**Pull request by kdvkrs**
## Description

Stacked on #516, the comments below pertain to this PR.

Partially addresses #480

This PR ports the heap-operation half of [`iris_heap_lang/proofmode.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris_heap_lang/proofmode.v): symbolic-execution tactics for the primitive heap operations, resolving points-to hypotheses from the spatial context. It involves two commits.

- [The first commit](https://github.com/kdvkrs/iris-lean/commit/8831793c8488f164100fdd6e158b008fb9264056) adds the tactics: `wp_load`, `wp_store`, `wp_xchg`, `wp_faa`, `wp_free`, `wp_alloc`, and `wp_cmpxchg`/`wp_cmpxchg_suc`/`wp_cmpxchg_fail`. Their signatures mirror the Rocq counterparts (`wp_alloc l as H`, `wp_cmpxchg as H1 | H2`). As in Rocq, every heap tactic first normalizes pure redexes.
  - The heap tactics build on shared machinery: `runTacticHeapWp` (prologue: `wp_pures`, WP-goal parsing, `HeapLangGS` extraction, one-later strip), `lookupPointsTo` (the `envs_lookup` analogue), and `finishHeapOp` (epilogue: refill the evaluation context, finish the continuation). The per-tactic bodies reduce to: match redex, look up, [possibly update], finish, assign.
  - Ownership discipline is enforced at lookup time: the expected fraction is a parameter baked into the split certificate's type. Writing operations pass `DFrac.own 1` as their `tac_wp_*` lemmas demand full ownership syntactically while the reading operations (`wp_load`, `wp_cmpxchg_fail`) pass a metavariable that records whatever fraction is found. This allows a dedicated error message for the tactics that do not need full-ownership points-tos.
  - `set_option trace.wp_heap true` traces the tactic invocations (`trace.wp_heap.redex` / `trace.wp_heap.lookup`).
  - Tests cover the happy path per tactic, harder positives (points-to selection among candidates, `▷`-stripping, fractional load, redexes inside evaluation contexts), and `#guard_msgs` negatives locking the error messages.

- [The second commit](https://github.com/kdvkrs/iris-lean/commit/79b0423e4a53da1140fbce60c2fc382f7a88d883) migrates the HeapLang libraries (`Spawn`, `SpinLock`, `LandinsKnot`, `Quicksort`) to the new tactics. 

### Remarks

- `wp_apply` / `wp_smart_apply` are planned for a follow-up PR.
- `wp_allocN` needs array definitions in `derived_laws.v`.

The later-stripping is confined to a single call site in `runTacticHeapWp`, should the step handling of `wp` ever change shape upstream.

This is my first foray into Lean metaprogramming, so I would greatly appreciate feedback on Qq usage and helper factoring in particular.

*AI disclosure*: I used Claude Code (Opus 4.8 + Fable 5) to help navigate the codebase, get me started on metaprogramming, and write test boilerplate. All design decisions, the code, and the proofs were reviewed and are owned by me.

## Checklist
* [x] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [x] I have added my name to the `authors` section of any appropriate files

### CODE REVIEW

**Comment by ayhon** [comment]
I haven't read the code, but looking at the commit messages got me thinking, do we want to support a `wp_alloc l as H` syntax, which is close to the Rocq equivalent, or try to make it more similar to other Lean tactics, such as `rcases`, which seems to almost replace `as` for `with`. I guess a more idiomatic notation would be `wp_alloc l with H`, but I don't know how others feel about this. Just a thought

**Comment by kdvkrs** [comment]
> or try to make it more similar to other Lean tactics, such as `rcases`, which seems to almost replace `as` for `with`. I guess a more idiomatic notation would be `wp_alloc l with H`

Absolutely, this is also something I was wondering about. Happy to adapt it like that.

File: Iris/Iris/HeapLang/ProofMode.lean [hunk 1]
```diff
@@ -393,5 +393,451 @@ macro "wp_pair" : tactic => `(tactic | wp_pure ((_, _)))
...
+/-- The goal handed to a heap tactic by `ProofModeM.runTacticHeapWp`: `WpGoal` fields,
+plus the `HeapLangGS` instance `hgs` extracted from the goal's `IrisGS_gen`, and the
+context `hyps'`/`eΔ'` after stripping the WP's step modality, with `pfLater` witnessing
+the strip. -/
+structure HeapWpGoal extends WpGoal where
+  hgs : Q(HeapLangGS $hlc $GF)
+  {eΔ' : Q($prop)}
+  hyps' : @Hyps u prop bi eΔ'
+  pfLater : Q($ehyps ⊢ (modality_laterN 1).M $eΔ')
+  hι : $ι =Q @HeapLang $hlc $GF $hgs
```
Comment (lzy0505) [inline Iris/Iris/HeapLang/ProofMode.lean]: It is possible to get rid of this field, by providing the `HeapLang` instance at the `iWpFinish` call in `finishHeapOp`.

File: Iris/Iris/HeapLang/ProofMode.lean [hunk 2]
```diff
@@ -393,5 +393,451 @@ macro "wp_pair" : tactic => `(tactic | wp_pure ((_, _)))
...
+    let pfSafe ← iSolveSidecondition q(($v).compareSafe $v1 = true) (failOnUnsolved := false)
+
+    let (sucName, _) ← getFreshName h1
+    let pfSuc : Q($v = $v1 → ($eΔ'' ∗ pointsTo $l (DFrac.own 1) (some $v2) ⊢
+      Wp.wp $s $E (ProgramLogic.fill $K (Exp.ofVal (Expr := Exp)
+      (Val.pair $v (Val.lit (BaseLit.bool true))))) $Φ)) ←
+        Qq.withLocalDeclDQ sucName q($v = $v1) fun _h => do
+          let ⟨innerSuc, .up _⟩ ← HeapLang.fillQ K
+            q(Exp.ofVal (Val.pair $v (Val.lit (BaseLit.bool true))))
+          let pf ← iWpFinish hypsSuc ι s E innerSuc Φ
```
Comment (lzy0505) [inline Iris/Iris/HeapLang/ProofMode.lean]: You should be able to use `finishHeapOp` here.

File: Iris/Iris/HeapLang/ProofMode.lean [hunk 3]
```diff
@@ -393,5 +393,451 @@ macro "wp_pair" : tactic => `(tactic | wp_pure ((_, _)))
...
+          mkLambdaFVars #[_h] pf
+
+    let (failName, _) ← getFreshName h2
+    let pfFail : Q($v ≠ $v1 → $eΔ' ⊢
+      Wp.wp $s $E (ProgramLogic.fill $K (Exp.ofVal (Expr := Exp)
+      (Val.pair $v (Val.lit (BaseLit.bool false))))) $Φ) ←
+        Qq.withLocalDeclDQ failName q($v ≠ $v1) fun _h => do
+          let ⟨innerFail, .up _⟩ ← HeapLang.fillQ K
+            q(Exp.ofVal (Val.pair $v (Val.lit (BaseLit.bool false))))
+          let pf ← iWpFinish hyps' ι s E innerFail Φ
```
Comment (lzy0505) [inline Iris/Iris/HeapLang/ProofMode.lean]: and here

File: Iris/Iris/HeapLang/ProofMode.lean [hunk 4]
```diff
@@ -393,5 +393,451 @@ macro "wp_pair" : tactic => `(tactic | wp_pure ((_, _)))
...
+    let (locName, _) ← getFreshName loc
+
+    let pfCont : Q(∀ l : Loc, $eΔ' ∗ pointsTo l (DFrac.own 1) (some $v) ⊢
+        Wp.wp $s $E (ProgramLogic.fill $K (Exp.ofVal (Expr := Exp) (Val.lit (BaseLit.loc l)))) $Φ) ←
+      Qq.withLocalDeclDQ locName q(Loc) fun l => do
+        let ⟨_, hyps''⟩ ← hyps'.addWithInfo bi hyp q(false)
+          q(pointsTo $l (DFrac.own 1) (some $v))
+
+        let ⟨inner, .up _⟩ ← HeapLang.fillQ K q(Exp.ofVal (Val.lit (BaseLit.loc $l)))
+        let pf ← iWpFinish hyps'' ι s E inner Φ
```
Comment (lzy0505) [inline Iris/Iris/HeapLang/ProofMode.lean]: and here

**Comment by lzy0505** [comment]
> I haven't read the code, but looking at the commit messages got me thinking, do we want to support a `wp_alloc l as H` syntax, which is close to the Rocq equivalent, or try to make it more similar to other Lean tactics, such as `rcases`, which seems to almost replace `as` for `with`. I guess a more idiomatic notation would be `wp_alloc l with H`, but I don't know how others feel about this. Just a thought

Agreed that we should use `with` here.

**Comment by kdvkrs** [comment]
Thanks for your comments, all addressed in [af2c03f](https://github.com/leanprover-community/iris-lean/pull/521/commits/af2c03f5e74ec1b4d041252b10f00b13983675b9)

Syntax is now `wp_alloc l with H` and `wp_cmpxchg with H1 H2`(flat name list in the style of `split_ifs`). 

Also rebased onto current master, which dropped the merge commit.

File: Iris/Iris/HeapLang/Lib/SpinLock.lean [hunk 5]
```diff
@@ -1,3 +1,8 @@
+/-
+Copyright (c) 2026. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Michael Sammler, ayhon, Klaus Kraßnitzer
```
Comment (MackieLoeffel) [inline Iris/Iris/HeapLang/Lib/SpinLock.lean]: `ayhon` should be `Fernando Leal`

File: Iris/Iris/HeapLang/ProofMode.lean [hunk 6]
```diff
@@ -393,5 +393,451 @@ macro "wp_pair" : tactic => `(tactic | wp_pure ((_, _)))
...
+    {prop : Q(Type u)} {bi : Q(BI $prop)} {eΔ' : Q($prop)}
+    (tacName : Name) (mvar : MVarId) (hgs : Q(HeapLangGS $hlc $GF))
+    (hyps' : Hyps bi eΔ') (l : Q(Loc)) (dq : Q(DFrac))
+    (hu : QuotedLevelDefEq u 0 := ⟨⟩)
+    (hprop : $prop =Q IProp $GF := ⟨⟩) :
+    ProofModeM (@PointsToLookup u GF hlc hgs prop bi eΔ' l dq hu hprop) := do
+  let some ⟨⟨v, name, vid⟩, eΔ'', hyps'', _, _, _, _, pf⟩ ←
+      hyps'.removeG false fun name vid p ty => do
+        -- ignore intuitionistic hyps
+        if isTrue p then return none
```
Comment (MackieLoeffel) [inline Iris/Iris/HeapLang/ProofMode.lean]: Why this? A points-to with a discarded fraction can be in the intuitionistic context.

File: Iris/Iris/HeapLang/ProofMode.lean [hunk 7]
```diff
@@ -393,5 +393,451 @@ macro "wp_pair" : tactic => `(tactic | wp_pure ((_, _)))
...
+        have ty : Q(IProp $GF) := ty
+        -- destructure ty to get the location l', fraction dq' and stored value v
+        let ~q(pointsTo $l' $dq' (some $v)) := ty | return none
+        unless ← isDefEq l' l do return none
+        -- a literal `dq` rejects other fractions; a metavariable records the one found
+        unless ← isDefEq dq' dq do return none
+        return some ((v : Q(Val)), name, vid)
+    | throwTacticEx tacName mvar (if dq.isMVar
```
Comment (MackieLoeffel) [inline Iris/Iris/HeapLang/ProofMode.lean]: This check seems a bit brittle since `dq` might already be assigned here. I would instead use an error message like `cannot find a points-to matching {l →dq v} in the context`. You might need to use `MessageData.withMCtx` to get the right printing of meta variables.

File: Iris/Iris/Tests/HeapLang/HeapTactics.lean [hunk 8]
```diff
@@ -0,0 +1,453 @@
...
+  wp_load
+  wp_binop
+  imodintro
+  iframe Hpt
+  ipureintro
+  rfl
+
+-- `wp_load` accepts *fractional* ownership (where store/faa/free would reject)
+example {l : Loc} {dq : DFrac} {v : Val} :
+    (l ↦{dq} some v) ∗ ((l ↦{dq} some v) -∗ Φ v) ⊢ WP hl(!v(#l)) @ s ; E {{ Φ }} := by
```
Comment (MackieLoeffel) [inline Iris/Iris/Tests/HeapLang/HeapTactics.lean:46]: Please add a test with a discarded fraction in the intuitionistic context.

File: Iris/Iris/Tests/HeapLang/HeapTactics.lean [hunk 9]
```diff
@@ -0,0 +1,453 @@
...
+    ▷ (l ↦ some hl_val(#1)) ⊢
+      WP hl(cmpXchg(v(#l), &v1, v(#7))) @ s ; E
+        {{ w, (⌜w = hl_val((#1, #true))⌝ ∗ l ↦ some hl_val(#7)) ∨
+              (⌜w = hl_val((#1, #false))⌝ ∗ l ↦ some hl_val(#1)) }} := by
+  iintro Hl
+  wp_cmpxchg with Heq Hne
+  · imodintro
+    ileft
+    iframe
+    ipureintro
```
Comment (MackieLoeffel) [inline Iris/Iris/Tests/HeapLang/HeapTactics.lean]: this can be replaced by `itrivial`.

**Review by MackieLoeffel — COMMENTED** [review]
Thanks for the PR! I added some comments, but overall this looks quite good to me.

File: Iris/Iris/HeapLang/ProofMode.lean (hunk 7 above)
Comment (kdvkrs) [reply Iris/Iris/HeapLang/ProofMode.lean]: Thanks for the comment, you're right that the original check was brittle. I opted for the following solution:

```lean
| do
  let dq ← instantiateMVars dq
  let dqMsg := if dq.isMVar then m!"_" else m!"{dq}"
  throwTacticEx tacName mvar
    m!"cannot find a points-to hypothesis for {l} ↦\{{dqMsg}} _"
```

Writes now print `l ↦{DFrac.own 1} _`, reads `l ↦{_} _` instead of the unstable `?m.N` metavariable that would break the `#guard_msgs` tests.

**Comment by kdvkrs** [comment]
> Thanks for the PR! I added some comments, but overall this looks quite good to me.

Thanks for the comments, I addressed them in 5fab87a. Read tactics now also find a discarded points-to in the intuitionistic context. A `Persistent` instance for points-to was needed so discarded points-tos could reach the intuitionistic context in the first place.

File: Iris/Iris/HeapLang/ProofMode.lean (hunk 7 above)
Comment (MackieLoeffel) [reply Iris/Iris/HeapLang/ProofMode.lean]: Instead of the `if dq.isMVar then m!"_" else m!"{dq}"`, you should use `set_option pp.mvars false` in the test.

Comment (kdvkrs) [reply Iris/Iris/HeapLang/ProofMode.lean]: Nice, that's cleaner. Done in c7ba6b3

File: Iris/Iris/Tests/HeapLang/HeapTactics.lean [hunk 10]
```diff
@@ -0,0 +1,467 @@
...
+E : CoPset
+Φ : Val → IProp GF
+l l' : Loc
+v : Val
+⊢
+  ∗Hpt : l' ↦ some v
+  ⊢ WP hl(!#l) @ s ; E {{ Φ }}
+-/
+-- the fraction is an unassigned metavariable here (a read accepts any); `pp.mvars false`
+-- keeps its rendering stable instead of a `?m.…` with a nondeterministic index
```
Comment (MackieLoeffel) [inline Iris/Iris/Tests/HeapLang/HeapTactics.lean]:
```suggestion
```
It is not necessary to explain what `set_option pp.mvars false in` does everytime we use it.

**Comment by MackieLoeffel** [comment]
Looks great, thanks! Merging.
